US04617304
Step D: 1,1-Bis(benzoyloxymethyl)-2-toluenesulfonyloxymethylcyclopropane
A solution of 4.5 g (13.2 mmole) of 1,1-bis(benzoyloxymethyl)-2-hydroxymethylcyclopropane in 50 ml of dry pyridine was treated with 7 g (37 mmoles) of p-tosyl chloride and stirred at 22° for 1.5 hours. TLC in cyclohexane-ethyl acetate (2:1) (Rf 0.6) indicated that the reaction was complete. The reaction was concentrated and the residue was dissolved in 150 ml of EtOAc and washed with 50 ml of water, 100 ml saturated NaHCO3, four 250 ml portions of water and 50 ml of saturated NaCl. The ethyl acetate layer was dried (MgSO4), filtered and concentrated to 9 g of residual solid. The crude product was chromatographed on 500 ml of silica gel in cyclohexane-ethyl acetate (5:1). Fractions containing only product were combined and concentrated to give 3.36 g (54%) of the title compound.

reactant | 1,1-bis(benzoyloxymethyl)-2-hydroxymethylcyclopropane | 13.2 mmole, 4.5 g | C(C1=CC=CC=C1)(=O)OCC1(C(C1)CO)COC(C1=CC=CC=C1)=O | C20H20O5
reactant | p-tosyl chloride | 37 mmoles, 7 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | 1,1-Bis(benzoyloxymethyl)-2-toluenesulfonyloxymethylcyclopropane | 3.36 g, 54% | C(C1=CC=CC=C1)(=O)OCC1(C(C1)COS(=O)(=O)C=1C(=CC=CC1)C)COC(C1=CC=CC=C1)=O | C27H26O7S
